Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___ / Lipitor
 
Attending: ___
 
Chief Complaint:
Diarrhea and Vomiting
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI: Developed acute onset of profuse diarrhea with nearly 20 
BMs
on the day prior to presentation. Was associated with vomiting.
Felt dehydrated, developed painful muscle cramps, and he was
repotedly sweaty and pale (per ED report) and continued to have
severe diarrhea so presented to ED.  Tums did not improve his
symptoms. Denies any known sick contacts. Denies any recent
antibiotic exposure. Denies any current or recent CP, SOB,
abdominal pain, leg swelling, joint pain or swelling, skin
rashes, or jaundice. Has had some mild throat irritation with
swallowing food this morning, which he attributes to irritation
from prior vomiting.

In terms of how he is doing this AM, says he feels much better
overall. Had ~20 BMs on ___, zero BMs yesterday, and has had 
2
loose BMs so far this morning. The first was ~2 hours ago and 
the
second was just now, which interrupted eating breakfast.
Describes stool as loose, yellowish brown, without BRBPR nor
tarry black stool.  Denies LH or dizziness with standing.
Appetite is OK, was able to eat full breakfast. No subsequent
nausea, vomiting or abdominal pain.
 
Past Medical History:
HYPERCHOLESTEROLEMIA                                            
HYPERTENSION
CKD (hypertensive nephrosclerosis)
 
Social History:
___
Family History:
Relative Status   Age Problem            
Mother   Living   ___                                            
Father   ___ ___  KIDNEY CANCER                             
Brother  Living   ___                                            
MGM      Deceased ___  BREAST CANCER   
 
Physical Exam:
EENT: EOMI, anicteric sclera, MMM, no OP lesions
Neck: no JVD
Chest: CTAB, normal WOB at rest and with walking in the room
Cardiovasc: RR, no m/r/g appreciated, 2+ radial and DP pulses, 
no
peripheral edema
Abd: soft, not tender to firm palpation in all quadrants, not
distended, bowel sounds active
GU: no suprapubic discomfort to palpation
MSK: thin extremities but well developed and with grossly normal
strength; joints examined and without evidence of swelling or
erythema
Skin: no jaundice
Neuro: AAOx4, clear speech, conversant in ___, stable gait
observed, independent supine to sitting to standing and w/
ambulation
Psych: calm, cooperative, pleasant
 
Pertinent Results:
___ 09:57AM BLOOD Glucose-115* UreaN-52* Creat-2.6*# Na-138 
K-4.4 Cl-102 HCO3-19* AnGap-17
___ 10:40AM BLOOD Glucose-108* UreaN-27* Creat-1.5* Na-142 
K-4.4 Cl-107 HCO3-26 AnGap-9*
___ 09:57AM BLOOD Neuts-83.4* Lymphs-7.5* Monos-7.9 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-11.19* AbsLymp-1.00* 
AbsMono-1.06* AbsEos-0.03* AbsBaso-0.06
___ 10:40AM BLOOD WBC-5.5 RBC-4.65 Hgb-12.7* Hct-40.0 
MCV-86 MCH-27.3 MCHC-31.8* RDW-13.2 RDWSD-41.2 Plt ___
 
Brief Hospital Course:
Mr. ___ presented with severe diarrhea and vomiting causing 
an acute kidney injury. He was given IVF hydration and his renal 
function improved from 2.6 on admission to 1.5 on discharge. 
Norovirus testing was negative.  Patient had no further episodes 
of diarrhe nor vomiting. He was discharged with instructions to 
follow up with PCP and repeat blood work on ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QAM 
2. lisinopril-hydrochlorothiazide ___ mg oral QAM 

 
Discharge Medications:
1.  Simvastatin 20 mg PO QAM  
2. HELD- lisinopril-hydrochlorothiazide ___ mg oral QAM  
This medication was held. Do not restart 
lisinopril-hydrochlorothiazide until your repeat blood work on 
___ has been reviewed by your PCP and ___ have been 
recommended by your PCP to do so. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ presented to the hospital for diarrhea and vomiting. ___ 
were found to have kidney injury and were given IV fluids. Your 
diarrhea and kidneys improved. Your stool studie were negative 
so far. 
___ will need a follow up blood work to be done as outpatient on 
___ and ___ PCP office can order this for ___. 
Please eat and drink well at home.
We wish ___ all the best! 
 
Followup Instructions:
___